US08314233B2
methyl 4,4-difluoro-3-oxo-2-(piperidin-1-ylmethylidene)butyrate
Methyl 3-piperidin-1-ylacrylate (99%, 8.7 g, 51 mmol) and pyridine (4.26 g, 54 mmol) was initially charged in toluene (150 ml) and cooled to −30° C. At this temperature, difluoroacetyl fluoride (10 g, 61 mmol) was introduced. The reaction mixture was stirred at −30° C. for 3 h and then, over a period of 1 hour, warmed to room temperature. The reaction mixture was washed with deionized water (200 ml). After separation of the phases, the aqueous phase was extracted once with toluene (100 ml). The toluene phases were combined and washed with an aqueous saturated NaCl solution (100 ml), and the solvent was then removed under reduced pressure. This gave methyl 4,4-difluoro-3-oxo-2-(1-piperidin-1-ylmethylidene)butyrate as an orange oil (amount: 12.0 g; purity according to GC: 97.7%; yield: 93.2%).

reactant | Methyl 3-piperidin-1-ylacrylate | 51 mmol, 8.7 g | N1(CCCCC1)C=CC(=O)OC | C9H15NO2
reactant | pyridine | 54 mmol, 4.26 g | N1=CC=CC=C1 | C5H5N
reactant | difluoroacetyl fluoride | 61 mmol, 10 g | FC(C(=O)F)F | C2HF3O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 4,4-difluoro-3-oxo-2-(piperidin-1-ylmethylidene)butyrate | yield: 93.2% | FC(C(C(C(=O)OC)=CN1CCCCC1)=O)F | C11H15F2NO3
